data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_317758_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:12])([H:13])[H:17])[O:7][O:6][O:8][H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:12])([H:13])[H:17])([O:6][O:8][H:9])[O:7][C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11],54.77071000000692
MR_210848_2,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([O:7][H:9])[O:8]1>>[C:1]([C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])=[O:8])([N:5]([H:11])[H:12])([O:7][H:9])[H:10],20.37241499999965
MR_674595_0,[C:1]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])([C:5](=[O:8])[H:15])/[N:7]=[C:6](\[N:4]([H:13])[H:14])[H:16]>>[C:1]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])=[N:7][C:6]([N:4]([H:13])[H:14])([C:5](=[O:8])[H:15])[H:16],69.1825024999676
MR_95078_0,[C:1](/[C:3](=[C:4](\[C:2]([H:12])([H:13])[H:14])[H:11])[H:10])([O:5][H:8])([O:6][H:7])[H:9]>>[C:1]1([O:6][H:7])([H:9])[C:3]([O:5][H:8])([H:10])[C:4]1([C:2]([H:12])([H:13])[H:14])[H:11],70.94515000004733
MR_461378_0,[C:1]1([N:6]([H:10])[H:13])([H:9])[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:19])[H:20])([N:5]([H:11])[H:12])[C:7]1([H:17])[H:18]>>[C:1]([C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:19])[H:20])=[C:7]([H:17])[H:18])([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[H:9],59.98398000000663
MR_303619_0,[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([O:9][H:12])[H:14])([N:6]([C:3]([H:15])([H:16])[H:17])[C:7]([C:4]([H:18])([H:19])[H:20])=[O:10])([O:8][H:11])[H:13]>>[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([O:9][H:12])[H:14])([N:6]([C:3]([H:15])([H:16])[H:17])[C:7]([C:4]([H:18])([H:19])[H:20])([O:10][H:11])[H:13])=[O:8],66.44346500003451
MR_335411_0,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])(/[C:6](=[N:8]/[N:5]([H:9])[H:10])[H:11])[O:7][C:2]([H:12])([H:13])[H:14]>>[C:1]1([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])[C:6]([O:7][C:2]([H:12])([H:13])[H:14])([H:11])[N:8]1[N:5]([H:9])[H:10],64.63312750000384
MR_587323_1,[C:1](/[C:3]([N:5]([H:11])[H:12])=[N:7]\[N:2]([N:4]([H:9])[H:10])[N:6]=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:3]([N:5]([H:11])[H:12])([N:6]=[O:8])/[N:7]=[N:2]\[N:4]([H:9])[H:10])([H:13])([H:14])[H:15],40.76679249997952
MR_371519_1,[C:1]([C:4]([N:2](/[C:3](=[C:6](\[N:5]([H:12])[H:13])[H:14])[O:8][H:11])[O:7][H:10])=[O:9])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:6](/[C:3](=[N:2]/[O:7][H:10])[O:8][H:11])([N:5]([H:12])[H:13])[H:14])=[O:9])([H:15])([H:16])[H:17],47.3731124999577
MR_106779_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])=[O:7])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6]([O:8][H:9])([H:10])[H:11]>>[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([O:7][H:9])[H:10])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6](=[O:8])[H:11],56.47311750002473
MR_26106_1,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[C:6](=[O:8])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:3]=[C:4](\[N:5]([H:9])[H:10])[C:7]([C:2]([H:16])([H:17])[H:18])([C:6](=[O:8])[H:11])[H:12])([H:13])([H:14])[H:15],45.49563249998954
MR_234721_0,[C:1]([C:2]([O:6][H:10])([O:7][H:11])[H:12])([N:3]([H:13])[H:14])([O:4][H:8])[O:5][H:9]>>[C:1]([C:2]([O:5][H:9])([O:6][H:10])[H:12])([N:3]([H:13])[H:14])([O:4][H:8])[O:7][H:11],66.72897749999137
MR_225592_1,[C@@:1]([C:2]([H:17])([H:18])[H:19])([C:3]([O:8][H:10])=[O:9])(/[C:4]([N:5]([H:12])[H:13])=[C:7](/[N:6]([H:14])[H:15])[H:16])[H:11]>>[C:1](\[C:2]([H:17])([H:18])[H:19])(=[C:4](/[N:5]([H:12])[H:13])[C@:7]([C:3]([O:8][H:10])=[O:9])([N:6]([H:14])[H:15])[H:16])[H:11],56.79188750000464
MR_98794_1,[C:1]([C:4]([H:16])([H:17])[H:18])([N:5]([C:2]([H:10])([H:11])[H:12])/[N:6]=[N:7]\[C:3]([H:13])([H:14])[H:15])([H:8])[H:9]>>[C:1]([C:4]([H:16])([H:17])[H:18])([N:7]([C:3]([H:13])([H:14])[H:15])/[N:6]=[N:5]/[C:2]([H:10])([H:11])[H:12])([H:8])[H:9],61.702702499983246
MR_395397_1,[N:1]([C:2](=[C:7]([H:17])[H:18])[O:9][H:11])([C:6](=[C:3]([N:4]([H:13])[H:14])[N:5]([H:12])[H:15])[H:16])[O:8][H:10]>>[N:1](=[C:6](/[C:3]([C:2](=[C:7]([H:17])[H:18])[O:9][H:11])([N:4]([H:13])[H:14])[N:5]([H:12])[H:15])[H:16])\[O:8][H:10],71.45468000000932
MR_190221_0,[C:1]([N:2](/[C:3]([N:6]([H:12])[H:13])=[N:7]\[N:5]([H:10])[H:11])[N:4]([H:8])[H:9])([H:14])([H:15])[H:16]>>[C:1]([N:7](/[C:3](=[N:2]/[N:4]([H:8])[H:9])[N:6]([H:12])[H:13])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16],68.1439900000214
MR_83286_0,[C:1]([C:3]([C:2]([H:11])([H:15])[H:16])=[N:6]/[N:7]=[C:5](/[N:4]([H:8])[H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([C:2]([H:11])([H:15])[H:16])[C:5]([N:4]([H:8])[H:9])([H:10])[N:7]=[N:6]1)([H:12])([H:13])[H:14],51.04712500002705
MR_363315_1,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:5](=[C:6](/[N:4]([H:11])[H:12])[H:14])[H:13])([O:7][N:3]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:5](\[C:6]([N:4]([H:11])[H:12])([O:7][N:3]([H:9])[H:10])[H:14])[H:13])[H:8],41.21043500000084
